US06969729B2
To a solution of 5,6-dichloroisatin (0,15 g; 0.7 mmol) in anhydrous DMF (5 ml) was added sodium hydride (40 mg, 60% dispersion in mineral oil). When the evolution of hydrogen had ceased iodomethane (0.1 ml) was added and the mixture was stirred for 20 min. at ambient temperature. Water (15 ml) and glacial acetic acid (0.1 ml) were added and the product was filtered off, washed with water and dried to yield 5,6-dichloro-1-methylisatin (0.13 g, 81%). The following compounds were prepared analogously: 4,5-dichloro-1-methylisatin (2b) from 4,5-dichloroisatin, and 6,7-dichloro-1-methylisatin from 6,7-dichloroisatin.

reactant | 5,6-dichloroisatin | 0.7 mmol, 0,15 g | ClC=1C=C2C(C(NC2=CC1Cl)=O)=O | C8H3Cl2NO2
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | iodomethane | 0.1 ml | IC | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | Water | 15 ml | O | H2O
product | 5,6-dichloro-1-methylisatin | 0.13 g, 81% | ClC=1C=C2C(C(N(C2=CC1Cl)C)=O)=O | C9H5Cl2NO2
